US09302991B2
<Step-3>:methyl 2-methyl-6-(2,2,2-trifluoroethoxy)nicotinate
Dimethylzinc (40.0 mL, 40.0 mmol) is added dropwise a solution of methyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (2.70 g, 10.0 mmol, Step-2) including methyl 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinate and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.816 g, 1.00 mmol) and stirred at 75° C. for 1 hour. After cooling room temperature, the resulting mixture is quenched by carefully added water. The reaction mixture is extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-Hexane/ethyl acetate (20:1) to give 0.89 g (36% yield) of the title compound as a white solid.

reactant | Dimethylzinc | 40.0 mmol, 40.0 mL | C[Zn]C
reactant | methyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 10.0 mmol, 2.70 g | ClC1=C(C(=O)OC)C=CC(=N1)OCC(F)(F)F | C9H7ClF3NO3
reactant | methyl 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinate | ClC1=NC(=C(C(=O)OC)C=C1)OCC(F)(F)F | C9H7ClF3NO3
product | methyl 2-methyl-6-(2,2,2-trifluoroethoxy)nicotinate | 0.89 g, 36% yield | CC1=C(C(=O)OC)C=CC(=N1)OCC(F)(F)F | C10H10F3NO3
